US05925662
7.6. 2-Cyanoethyl-6-nitro-3,4-dihydro-2H-1-benzopyran
A solution of 7.7 g (41 mmol) of 2-cyanoethyl-3,4-dihydro-2H-1-benzopyran in 150 ml of trifluoroacetic acid is reacted for 15 min with 10.5 g (123 mmol) of sodium nitrate, and then the mixture is poured into ice water and the product is extracted with dichloromethane. The organic phase is then dried over sodium sulfate and concentrated under reduced pressure. By chromatography of the residue on a silica column using cyclohexane containing 30% ethyl acetate, 4.5 g of product are obtained.

reactant | 2-cyanoethyl-3,4-dihydro-2H-1-benzopyran | 41 mmol, 7.7 g | C(#N)CCC1OC2=C(CC1)C=CC=C2 | C12H13NO
reactant | sodium nitrate | 123 mmol, 10.5 g | [N+](=O)([O-])[O-].[Na+]
solvent | trifluoroacetic acid | 150 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Cyanoethyl-6-nitro-3,4-dihydro-2H-1-benzopyran | C(#N)CCC1OC2=C(CC1)C=C(C=C2)[N+](=O)[O-] | C12H12N2O3
